US04492692
Examples 55 and 56: E-2-Fluoro-4-(3-oxobut-1-enyl)-1-triphenylmethylimidazole in EtOH was treated with O-methylhydroxylamine hydrochloride and pyridine for 18 hours. Solvent was evaporated and 2-fluoro-4-(3-methoxyiminobut-1-enyl)-1-triphenylmethylimidazole isolated by crystallisation as a 3:1 mixture of isomers. The major Z, E-isomer had the following n.m.r. in CDCl3 : 1.96 (s, 3H); 3.9 (s, 3H); 6.48 (d, 1H); 6.6 (s, 1H); 7.04-7.4 (m, 16H).

reactant | E-2-Fluoro-4-(3-oxobut-1-enyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)\C=C\C(C)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21FN2O
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | EtOH | CCO | C2H6O
product | 2-fluoro-4-(3-methoxyiminobut-1-enyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=CC(C)=NOC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24FN3O
